US06235771B1
In formic acid (110 ml) was dissolved 5-bromo-2-propoxybenzaldehyde (21.8 g). To the mixture was added hydroxylamine hydrochloride (9.4 g), and the mixture was refluxed for 7 hours and cooled to room temperature. Under reduced pressure, the solvent was evaporated, and the residue was added to 1N potassium hydroxide. The mixture was extracted with ethyl acetate, washed with saturated brine and dried with magnesium sulfate. Under reduced pressure, the solvent was evaporated, and the residue was purified with silica gel column chromatography (hexane/ethyl acetate=8/1) to give 5-bromo-2-propoxybenzonitrile (15.8 g).

reactant | 5-bromo-2-propoxybenzaldehyde | 21.8 g | BrC=1C=CC(=C(C=O)C1)OCCC | C10H11BrO2
reactant | hydroxylamine hydrochloride | 9.4 g | Cl.NO
solvent | formic acid | 110 ml | C(=O)O | CH2O2
product | 5-bromo-2-propoxybenzonitrile | 15.8 g | BrC=1C=CC(=C(C#N)C1)OCCC | C10H10BrNO
